US04791110
3,6-dichloro-4-(2,2-dichloro-1-methylcyclopropyl)pyridazine
A 3.5 g. portion of 3,6-dichloropyridazine was slurried with 4.0 g. of 2,2-dichloro-1-methylcyclopropanecarboxylic acid, 15 ml. of water, 3.4 g. of concentrated sulfuric acid in 20 ml. of water, and 4.0 g. of silver nitrate, and the mixture was heated to 65° with rapid stirring. To it was added 11.9 g. of ammonium persulfate in 20 ml. of water, over 20 minutes, while the temperature was held at 70°-76°. The mixture was stirred 15 minutes after the addition and cooled to 10°. Its pH was adjusted to 8.0 with ammonium hydroxide, and the water layer was then decanted off. The remaining solids were washed twice with 100 ml. portions of diethyl ether, and that ether was then used to extract the water layer. The organic layer was washed with 1N sodium hydroxide and with brine, and dried. The solvent was removed under vacuum, and the residue was purified by chromatography, eluting with 3:1 heptane:ethyl acetate. The product-containing fractions were combined and evaporated, and the residue was recrystallized from heptane, to obtain 0.52 g. of the desired product, m.p. 78°-79°.

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 2,2-dichloro-1-methylcyclopropanecarboxylic acid | ClC1(C(C1)(C(=O)O)C)Cl | C5H6Cl2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
solvent | water | O | H2O
product | 3,6-dichloro-4-(2,2-dichloro-1-methylcyclopropyl)pyridazine | ClC=1N=NC(=CC1C1(C(C1)(Cl)Cl)C)Cl | C8H6Cl4N2
